US06921759B2
Step 1: Preparation of 5-fluoro-N,N,2-trimethylbenzenesulfonamide
A solution of 5-fluoro-2-methyl-benzenesulphonyl chloride (5.0 g, 24.0 mmol, Lancaster cat # 12627) dissolved in THF (100 mL) was saturated with dimethylamine gas and left to stir at room temperature for one hour. The ammonium chloride salts were then removed by vacuum filtration and the filtrate was concentrated to a yellow oil. The oil was dissolved in a minimal amount of ethyl acetate and purified on an Isco column (110 g silica) running a 10 to 25% EtOAc/Hexane gradient over 40 minutes. The collected fractions were concentrated in vacuo to afford the desired material as a yellow oil.

reactant | 5-fluoro-2-methyl-benzenesulphonyl chloride | 24.0 mmol, 5.0 g | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-fluoro-N,N,2-trimethylbenzenesulfonamide | FC=1C=CC(=C(C1)S(=O)(=O)N(C)C)C | C9H12FNO2S
